US06358972B1
5-(Indazol-3-yl)-3-(1-Methylpiperidin-4-yl)-1H-Indole
The title compound was prepared by the procedure of Example 14, beginning with 3-(1-methylpiperidin-4-yl)-1H-indole-5-boronic acid (0.250 g, 0.97 mmol), 3-chloro-1-(tert-butoxycarbonyl)indazole (0.230 g, 0.92 mmol), Pd(dppf)Cl2 CH2Cl2 (0.023 g, 0.028 mmol), and 2M aqueous sodium carbonate solution (2 mL) in 6 mL of tetrahydrofuran to give 0.197 g (47%) of 5-(3-[1-tert-butoxycarbonyl]indazolyl)-3-(1-methylpiperidin-4-yl)-1H-indole as an amorphous tan solid, which was dissolved in 3 mL of tetrahydrofuran, followed by the addition of sodium methoxide (0.074 g, 1.38 mmol) in 1 mL of methanol, and the mixture was allowed to stir at room temperature for 0.5 hours, followed by extractive work-up and silica gel chromatography to give 0.062 g (54%) of the title compound as an amorphous off-white solid. FDMS m/e=330 (M+). EA calculated for C21H22N4.½ H2O C, 74.31; H, 6.83; N, 16.50. Found: C, 74.52; H, 6.96; N, 15.95.

reactant | 3-(1-methylpiperidin-4-yl)-1H-indole-5-boronic acid | 0.97 mmol, 0.250 g | CN1CCC(CC1)C1=CNC2=CC=C(C=C12)B(O)O | C14H19BN2O2
reactant | 3-chloro-1-(tert-butoxycarbonyl)indazole | 0.92 mmol, 0.230 g | ClC1=NN(C2=CC=CC=C12)C(=O)OC(C)(C)C | C12H13ClN2O2
reactant | sodium carbonate | 2M, 2 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
catalyst | Pd(dppf)Cl2 CH2Cl2 | 0.028 mmol, 0.023 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 5-(Indazol-3-yl)-3-(1-Methylpiperidin-4-yl)-1H-Indole | N1N=C(C2=CC=CC=C12)C=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C21H22N4
